US06448397B1
To a mixture of 7-methyl-3-phenyl-2,3-dihydro4H-1,4-benzoxazin4-amine (5.95 g, 24.8 mmol) in toluene (175 mL) is added while stirring 1,3 cyclohexandione (2.86 g, 25.5 mmol). The mixture is heated to 95° C. for 20 min, at which time p-toluenesulfonic acid monohydrate (4.71 g, 24.8 mmol) is added and the temperature is increased to 106° C. for 1 h. The mixture is refluxed for 12h, then cooled to room temperature and concentrated. The residue is partitioned between CH2Cl2/1N NaOH. The organic layer is washed with brine, dried over magnesium sulfate and concentrated to dryness. Column chromatography (100 g silica gel) using acetone/hexane (25/75) as eluent gave 4.06 g (51%) of 5-methyl-1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one; mp 171° C.

reactant | 7-methyl-3-phenyl-2,3-dihydro4H-1,4-benzoxazin4-amine | 24.8 mmol, 5.95 g | CC1=CC2=C(N(C(CO2)C2=CC=CC=C2)N)C=C1 | C15H16N2O
reactant | 1,3 cyclohexandione | 25.5 mmol, 2.86 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | p-toluenesulfonic acid monohydrate | 24.8 mmol, 4.71 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 175 mL | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one | 4.06 g, 51% | CC=1C=C2C=3C(CCCC3N3C2=C(C1)OCC3C3=CC=CC=C3)=O | C21H19NO2
